US04329460
In 15 ml. of concentrated hydrochloric acid, 345 mg. of methyl 5-chloro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate is heated under reflux for 15 hours. The reaction mixture is cooled with ice, whereupon 92 mg. of 5-chlorouracil is obtained as colorless prisms.

reactant | hydrochloric acid | Cl | ClH
reactant | methyl 5-chloro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | ClC1(C(NC(NC1O)=O)=O)C(=O)OC | C6H7ClN2O5
product | 5-chlorouracil | ClC=1C(NC(NC1)=O)=O | C4H3ClN2O2
